US05744471
7-Chloro-1-hy droxy-3-(4-hydroxyphenyl)-3,4,5,10-tetrahydropyridazino[4,5-b]quinoline-4,10-dione.
7-Chloro-1-hydroxy-3-(4-methoxyphenyl)-3,4,5,10-tetrahydropyridazino[4,5-b]-quinoline-4,10-dione (0.800 g, 2.16 mM) was stirred in methanesulfonic acid (16 mL) to give an amber solution. This solution was heated to 160° C. for 6 hours and cooled to room temperature. Addition of ethyl ether (250 mL) gave a tan precipitate which was stirred for 1 hour. The solid was collected and washed with methanol/ether to give the title compound (0.661 g, 77%) as a tan powder, mp 393°-395° C.; MS(CI): 356 (M+H). Analysis for C17H10CNl3O4 ·0.2CH3SO3H·1.3 H2O: Calculated: C, 51.86; H, 3.39; N, 10.55; Found: C, 51.76; H, 3.02; N, 10.37; NMR: 13.30 (s, 1H, exchangeable), 12.5 (v br s, 1H, exchangeable), 10.8 (br s, 1H, exchangeable), 8.29 (d, J=8.76 Hz, 1H,), 8.23 (br s, 1H), 7.61 (br d, J=8.76 Hz, 1H,), 7.45 (d, J=8.81 Hz, 2H), 6.88 (d, J=8.81 Hz, 2H), 2.32 (s, 0.5H).

reactant | 7-Chloro-1-hydroxy-3-(4-methoxyphenyl)-3,4,5,10-tetrahydropyridazino[4,5-b]-quinoline-4,10-dione | 2.16 mM, 0.800 g | ClC=1C=CC=2C(C3=C(NC2C1)C(N(N=C3O)C3=CC=C(C=C3)OC)=O)=O | C18H12ClN3O4
reactant | ethyl ether | 250 mL | C(C)OCC | C4H10O
solvent | methanesulfonic acid | 16 mL | CS(=O)(=O)O | CH4O3S
product | 7-Chloro-1-hy droxy-3-(4-hydroxyphenyl)-3,4,5,10-tetrahydropyridazino[4,5-b]quinoline-4,10-dione | 0.661 g, 77% | ClC=1C=CC=2C(C3=C(NC2C1)C(N(N=C3O)C3=CC=C(C=C3)O)=O)=O | C17H10ClN3O4
